US04642313
To a solution of 5.0 g of ethyl 3-pentanoylamino-3-(2-furylcarbonyl)propionate in 50 ml of methylene chloride is added a mixture of 10 g of phosphorus pentoxide and 10 g of diatomaceous earth. The mixture is refluxed for 6 hours under stirring. After the reaction is completed, the mixture is treated in the same manner as described in Example 2. 4.0 g of ethyl 2-[2-n-butyl-5-(2-furyl)-4-oxazolyl]acetate are thereby obtained as an oil. Yield: 85.1%

reactant | ethyl 3-pentanoylamino-3-(2-furylcarbonyl)propionate | 5.0 g | C(CCCC)(=O)NC(CC(=O)OCC)C(=O)C=1OC=CC1 | C15H21NO5
reactant | phosphorus pentoxide | 10 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-[2-n-butyl-5-(2-furyl)-4-oxazolyl]acetate | 4.0 g, Yield: 85.1% | C(CCC)C=1OC(=C(N1)CC(=O)OCC)C=1OC=CC1 | C15H19NO4
